US07642263B2
3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide
1-Chloro-N,N,2-trimethyl-1-propenylamine (0.1 mL, 0.75 mmol) was added to a solution of 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]benzoic acid (0.3 g, 0.58 mmol) in DCM (10 mL) and stirred for 1 hour. 2-Amino-5-methylpyrazine (126 mg, 1.15 mmol) then pyridine (0.094 mL, 1.15 mmol) were added and the mixture stirred for a further 30 mins before being reduced in vacuo and partitioned between ethyl acetate (50 mL) and water (50 mL). The aqueous layer was further extracted into ethyl acetate (50 mL) and the combined organics washed with water (50 mL), brine (50 mL), dried (MgSO4), and reduced in vacuo. The crude oil was chromatographed on silica, eluting with 40-100% ethyl acetate in isohexane, to give the title compound as an oil (180 mg).

reactant | 1-Chloro-N,N,2-trimethyl-1-propenylamine | 0.75 mmol, 0.1 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-{[5-(azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]benzoic acid | 0.58 mmol, 0.3 g | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)O)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C)Cl | C25H33ClN2O6Si
reactant | 2-Amino-5-methylpyrazine | 1.15 mmol, 126 mg | NC1=NC=C(N=C1)C | C5H7N3
reactant | pyridine | 1.15 mmol, 0.094 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-{[5-(Azetidin-1-ylcarbonyl)-3-chloropyridin-2-yl]oxy}-5-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-N-(5-methylpyrazin-2-yl)benzamide | 180 mg | N1(CCC1)C(=O)C=1C=C(C(=NC1)OC=1C=C(C(=O)NC2=NC=C(N=C2)C)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C)Cl | C30H38ClN5O5Si
